US07205306B2
5-Bromo-3-(7-bromo-5-methoxy-2,3-dihydro-1H-indol-1-yl)-1-(1-ethylpropyl)-2(1H)-pyrazinone
Prepared in a similar fashion as described for Example 413 using 3,5-dibromo-1-(1-ethylpropyl)-2(1H)-pyrazinone and 7-bromo-5-methoxyindoline hydrochloride as the starting materials. mp 133–135° C.; 1H NMR (300 MHz, CDCl3): δ 6.92 (d, J=2.6 Hz, 1 H), 6.81 (s, 1 H), 6.78 (d, J=2.2 Hz, 1 H), 4.81–4.78 (m, 1 H), 4.35 (t, J=7.7 Hz, 2 H), 3.78 (s, 3 H), 3.11 (t, J=7.7 Hz, 2 H), 1.87–1.73 (m, 2 H), 1.70–1.60 (m, 2 H), 0.89 (t, J=7.3 Hz, 6 H); HRMS (ESI) calcd for C18H22N3O2Br2 (M+H)+: 470.0079; found m/z 470.0084.

reactant | 3,5-dibromo-1-(1-ethylpropyl)-2(1H)-pyrazinone | BrC=1C(N(C=C(N1)Br)C(CC)CC)=O | C9H12Br2N2O
reactant | 7-bromo-5-methoxyindoline hydrochloride | Cl.BrC=1C=C(C=C2CCNC12)OC
product | 5-Bromo-3-(7-bromo-5-methoxy-2,3-dihydro-1H-indol-1-yl)-1-(1-ethylpropyl)-2(1H)-pyrazinone | BrC=1N=C(C(N(C1)C(CC)CC)=O)N1CCC2=CC(=CC(=C12)Br)OC | C18H21Br2N3O2
